US09416132B2
To a solution of trans-N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine (90 mg, 0.26 mmol) and pyridine (0.08 mL, 1.04 mmol) in CH2Cl2 (2.6 mL) was added dropwise chloroacetyl chloride (0.03 mL, 0.39 mmol). The resulting mixture was stirred at room temperature overnight. TLC (CH2Cl2:MeOH=10:1) showed the reaction was complete. The mixture was poured into sat. aq. NaHCO3 (100 mL) and extracted with EtOAc (50 mL*3). The extracts were dried over Na2SO4, filtered and concentrated in vacuo to give crude 2-chloro-N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)acetamide (110 mg, 101%) as a yellow solid.

reactant | trans-N1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)cyclohexane-1,4-diamine | 0.26 mmol, 90 mg | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)N | C18H20ClN5
reactant | pyridine | 1.04 mmol, 0.08 mL | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 0.39 mmol, 0.03 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2.6 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 2-chloro-N-(trans-4-((3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)acetamide | 110 mg, 101% | ClCC(=O)N[C@@H]1CC[C@H](CC1)NC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C20H21Cl2N5O
